US06756378B2
To a stirred solution of tert-butyl ethyl malonate (5.35 ml, 28.2 mmol) in DMF (150 ml) was added NaH (60% in oil, 3.38 g, 84.7 mmol) at rt. After 20 min, 2,3-difluoronitrobenzene (5 g, 28.2 mmol) in DMF (50 mL) was added dropwise via dropping funnel. Following the addition, the mixture was stirred for 3 hours at rt. The mixture was poured into ice-water and sat. NH4Cl (100 mL). The mixture was extracted with EtOAc and the combined organic layer was washed with 1M HCl and brine, dried over MgSO4, filtered and concentrated. The residue was dissolved to dichloromethane (20 mL), and added TFA (20 mL) at rt. The mixture was refluxed for 18 h. The mixture was evaporated in vacuo, coevaporated with toluene (20 mL×2). The residue was chromatographed on silica gel (middle pressure chromatography system: YAMAZEN YFLC-5404-FC, linear gradient hexane-EtOAc 10:0 to 1:1, φ50 mm×300 mm, 15 mL/min) to give ethyl 2,3-difluoro-4-nitrophenylacetic acid (5.85 g, 85%) as a yellow oil. 1H-NMR (CDCl3) δ1.30 (m, 3H), 3.78 (s, 2H), 4.22 (m, 2H), 7.22 (m, 1H), 7.84 (m, 1H); MS (FAB) m/z 246 (M++1).

reactant | tert-butyl ethyl malonate | 28.2 mmol, 5.35 ml | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
reactant | NaH | 84.7 mmol, 3.38 g | [H-].[Na+]
reactant | 2,3-difluoronitrobenzene | 28.2 mmol, 5 g | FC1=C(C=CC=C1F)[N+](=O)[O-] | C6H3F2NO2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 2,3-difluoro-4-nitrophenylacetic acid | 5.85 g, 85% | C(C)C(C(=O)O)C1=C(C(=C(C=C1)[N+](=O)[O-])F)F | C10H9F2NO4
